Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
CC: agitation
___, MD
___ of note: ___

HPI: ___ w severe dementia on ___ transferred to ___ for
agitation and throwing things and refusing meds. 

In ___,  97.6  ___  18 
HR came down to 89 w 1L LR, rose again later on ___, Tm 99.1 in
___, HR rose again on ___ to 121, then came down to 109 by
following day, but then rose to 124 over cours of day, came down
to 115 after IVF.

In ___ with translator, he is saying "I am an adult, I am not
staying here, I was just sleeping, I have not eaten in 14 days"
but is not answering any questions posed to him, interrupts
without listening. 

CXR, CT head, refused PO meds, needed IM/IV meds. Plan was for
___ psych placement. While in ___ was very agitated and bit a
___. Broad toxic-metabolic and infectious workup was
unremarkable except for hematuria that has improved during ___
stay. The initial plan had been for geriatric psych placement,
however when ambulance arrived to take patient to outside
facility he re-developed hematuria requiring CBI. Is now being
admitted to medicine for hematuria, persistent tachycardia,
agitated delirium. Patient has refused to eat/drink over the 
past
few days, is getting IV maintenance fluids. On ___ and
cannot leave AMA.

Patient remained very agitated, unable to urinate without a
catheter and is refusing to take oral medications and is getting
everything IM. Unable to send back to facility at this time 
given
safety risk and with catheter in place. Geriatric psych
recommended medicine admission at this time.

Per ___ attending: spoke with pt's son who is now OK with getting
admitted to medicine just for care of hematuria and behavioral
management (psych will follow) and once he is back to a level
where can be discharged back to ___, he would like
this to happen. He would also like hospice to be reengaged 
during
hospitalization. He has not inclined to treat any other medical
condition that arises, but ___ MD instructed him that we would
call him to discuss any additional issues that arose before
intervention.

___ 05:15 IM OLANZapine 5 mg ___  
___ 06:06 IM OLANZapine 7.5 mg ___  
___ 08:45 IM OLANZapine 7.5 mg ___  
___ 09:08 IM Haloperidol 5 mg ___  
___ 10:27 IM Haloperidol 5 mg ___  
___ 14:30 PO Divalproex (DELayed Release)  ___
Not Given  
___ 14:30 PO/NG Metoprolol Tartrate  ___ Not
Given  
___ 16:30 PO/NG Metoprolol Tartrate  ___ Not
Given  
___ 17:36 SC Insulin  ___ Not Given  
___ 18:30 PO Divalproex (DELayed Release)  ___
Not Given  
___ 18:30 PO/NG Metoprolol Tartrate  ___ Not
Given  
___ 20:00 PO/NG Atorvastatin  ___ Not Given  
___ 20:00 PO/NG Sertraline  ___ Not Given  
___ 20:19 PO Haloperidol 7.5 mg ___  
___ 21:23 IM Haloperidol 5 mg ___  
___ 22:15 SC Insulin  ___ Not Given  
___ 01:24 IM OLANZapine 10 mg ___  
___ 08:00 PO Divalproex (DELayed Release)  ___
Not Given  
___ 08:00 PO/NG Metoprolol Tartrate  ___ Not
Given  
___ 08:00 PO/NG Sertraline  ___ Not Given  
___ 08:00 PO Haloperidol  ___ Not Given  
___ 10:00 SC Insulin  ___ Not Given  
___ 13:05 SC Insulin  ___ Not Given  
___ 13:06 PO Divalproex (DELayed Release) 125 mg
___ Delayed Administration  
___ 13:06 PO/NG Sertraline 50 mg ___ Delayed
Administration  
___ 16:20 IM OLANZapine 5 mg ___  
___ 20:00 PO Divalproex (DELayed Release)  
___
Not Given  
___ 20:00 PO/NG Metoprolol Tartrate  ___ Not
Given  
___ 20:00 PO Haloperidol  ___ Not Given  
___ 20:05 SC Insulin 4 Units ___  
___ 22:00 PO/NG Atorvastatin  ___ Not Given  
___ 05:02 IM OLANZapine 10 mg ___  
___ 05:29 IV Acetaminophen IV 1000 mg ___  
___ 07:23 IVF 500 mL NS  ___ Started  
___ 08:00 PO Divalproex (DELayed Release) 
___ Not Given  
___ 08:00 PO/NG Metoprolol Tartrate  ___
Not Given  
___ 08:00 PO/NG Sertraline  ___ Not Given 


___ 08:00 PO Haloperidol  ___ Not Given  
___ 08:24 IVF 500 mL NS 500 mL ___ 
Stopped
(1h ___  
___ 08:24 IVF  LR ( 1000 mL ordered) ___
Started 100 mL/hr 
___ 08:32 SC Insulin  ___ Not Given  
___ 11:52 IVF  LR  ___ Confirmed No 
Change
in Rate, rate continued at 100 mL/hr 
___ 11:57 SC Insulin  ___ Not Given  
___ 13:44 IM Haloperidol 7.5 mg ___  
___ 15:06 IVF  LR  ___ Confirmed No 
Change
in Rate, rate continued at 100 mL/hr 
___ 16:15 IVF  LR  ___ Started  
___ 18:18 SC Insulin  ___ Not Given  
___ 18:18 IVF  LR 1000 mL ___ Stopped (2h
___  

Psych saw and recommended initially ___ psych for titration of
medication and establishment of behavioral control for ultimate
return to ALF. Sectioned. Psych spoke to pt's son, ___
who initially stated that his father is not to be admitted
inpatient as pt is on hospice and has MOLST. ___ Attending
contacted Dr. ___ to further discuss this request and pt's
son was agreeable to inpatient admission for control of 
hematuria
and further behavioral management. Dr. ___ amenable to
treating further medical issues that may arise over the course 
of
hospitalization and would like the pt to return to ___ 
___
once in better behavioral control. Psych ultimately therefore
felt psychiatric hospitalization would not be appropriate at 
this
time. They recommended coordinating with ALF ___
___, Primary Care ___ ___, ___ (___) to arrange appropriate 
disposition.

When I saw patient he was not able to provide history with
interpreter. Said "I won't do it" in ___. 

ROS limited by cooperation, dementia

PMH:
Hospitalizations:
- one hospitalization at ___ over a year ago at ___ for a 
similar
presentation (an episode of aggression/agitation); patient was
started on Haldol, which, per his son, was helpful
Current treaters and treatment:
- per records brought from ALF:
--- psychiatric NP ___ (___)
Medication and ECT trials:
- Haldol, Depakote, Zoloft, Seroquel;
- no ECT
Self-injury: no known intentional self-injury
Harm to others: hits staff when agitated/aggressive
Access to weapons: none (per son and ALF staff)

PAST MEDICAL HISTORY:
T2DM
HTN
HLD
BPH
Dementia
Glaucoma resulting in blindness

Meds:
The Preadmission Medication list is accurate and complete
1. Divalproex (DELayed Release) 125 mg PO BID 
2. Atorvastatin 20 mg PO QPM 
3. Tamsulosin 0.4 mg PO QHS 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. Sertraline 50 mg PO DAILY 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. glimepiride 2 mg oral DAILY 
8. Lisinopril 10 mg PO DAILY 
9. Haloperidol 4 mg PO BID 

Per psych, it appears Haldol is only med he's been getting

Allergies:
Allergies  (Last Verified ___ by ___:
Patient recorded as having no known allergies to drugs           


SH:
per psych
- patient used to smoke and drink alcohol, but not in the past
few years that his dementia has been progressing;
- no history of illicit drug use
Born and raised in ___, came to the ___ as an adult. Used to 
be
a ___ oncol___ and dermat___. Was married and had 
one
son with his wife; wife divorced him after dementia lead to
significant personality changes. Patient's son ___ is now his
HCP, guardian and only support.

FH:
per psych
- per son, depression in some of family members

PE
___: VS reviewed, NAD, lying in bed with eyes open 
and
agitated
HEENT: eyes anicteric, L eye cloudy, R eye wnl, normal hearing,
nose unremarkable, MMM without exudate, would not tolerate ear
exam
CV: tachycardic
Resp: CTAB
GI: sntnd, NABS
GU: foley pink urine
MSK: no obvious synovitis
Ext: wwp, neg edema in BLEs
Skin: no rash grossly visible
Neuro: not oriented, mumbling/rambling, some of these are words
per interpreter but not responding to questions appropriately,
MAEE, no facial droop, in restraints
Psych: confused

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
.
 
Past Medical History:
.
 
Social History:
___
Family History:
 
 
Physical Exam:
 
 
Pertinent Results:
EXAMINATION:  CHEST (PORTABLE AP) ___
INDICATION:  ___ year old man with dementia with acute 
agitation// ? pneumonia 
TECHNIQUE:  Portable AP chest radiograph 
COMPARISON:  None available at time of interpretation. 
FINDINGS:  
The patient is rotated to the left.  Low lung volumes.  
Cardiomediastinal and hilar contours are unremarkable.  No focal 
consolidation or pulmonary edema.  No pleural effusion or 
pneumothorax.  Visualized osseous structures are grossly 
unremarkable. 
IMPRESSION:  
No evidence of pneumonia. 

EXAMINATION:  CT HEAD W/O CONTRAST ___  
INDICATION:  History: ___ with altered mental status.  
TECHNIQUE:  Contiguous axial images of the brain were obtained 
without 
contrast. 
FINDINGS:  
The patient head is tilted to the left, slightly limiting 
evaluation.  There 
is no evidence of acute intracranial hemorrhage, edema, mass 
effect, or acute 
major vascular territorial infarction.  There is moderate global 
parenchymal 
volume loss with prominent ventricles and sulci. 
There is no evidence of fracture.  There is near complete 
opacification of the 
left mastoid air cells and left middle ear cavity.  There is 
minimal mucosal 
thickening in the frontoethmoidal recesses and along the 
anterior walls of the 
sphenoid sinuses.  There are postsurgical changes in the left 
orbit.  
IMPRESSION: 
1. No evidence of acute intracranial abnormality 
2. Near complete opacification of the left mastoid air cells and 
left middle  ear cavity. 

___ 03:24AM BLOOD WBC-6.3 RBC-4.30* Hgb-12.6* Hct-38.8* 
MCV-90 MCH-29.3 MCHC-32.5 RDW-13.3 RDWSD-44.0 Plt ___
___ 08:40PM BLOOD WBC-11.6* RBC-4.64 Hgb-13.7 Hct-41.8 
MCV-90 MCH-29.5 MCHC-32.8 RDW-13.4 RDWSD-44.1 Plt ___
___ 07:05AM BLOOD WBC-11.4* RBC-4.60 Hgb-13.5* Hct-41.7 
MCV-91 MCH-29.3 MCHC-32.4 RDW-13.7 RDWSD-45.4 Plt ___
___ 06:00AM BLOOD WBC-8.2 RBC-4.23* Hgb-12.5* Hct-37.7* 
MCV-89 MCH-29.6 MCHC-33.2 RDW-13.4 RDWSD-44.0 Plt ___
___ 03:24AM BLOOD Neuts-70.8 Lymphs-17.4* Monos-10.2 
Eos-0.5* Baso-0.6 Im ___ AbsNeut-4.43 AbsLymp-1.09* 
AbsMono-0.64 AbsEos-0.03* AbsBaso-0.04
___ 07:05AM BLOOD Neuts-75.1* Lymphs-11.7* Monos-11.5 
Eos-0.8* Baso-0.3 Im ___ AbsNeut-8.58* AbsLymp-1.34 
AbsMono-1.32* AbsEos-0.09 AbsBaso-0.03
___ 06:00AM BLOOD Neuts-69.6 Lymphs-14.2* Monos-13.1* 
Eos-2.2 Baso-0.7 Im ___ AbsNeut-5.68 AbsLymp-1.16* 
AbsMono-1.07* AbsEos-0.18 AbsBaso-0.06

___ 03:24AM BLOOD ___ PTT-29.3 ___
___ 07:05AM BLOOD ___ PTT-27.8 ___
___ 06:00AM BLOOD ___ PTT-28.4 ___

___ 03:24AM BLOOD Glucose-209* UreaN-18 Creat-0.8 Na-137 
K-4.1 Cl-100 HCO3-27 AnGap-10
___ 08:40PM BLOOD Glucose-220* UreaN-21* Creat-0.9 Na-139 
K-4.5 Cl-99 HCO3-26 AnGap-14
___ 07:05AM BLOOD Glucose-188* UreaN-25* Creat-1.0 Na-140 
K-5.0 Cl-99 HCO3-23 AnGap-18
___ 06:00AM BLOOD Glucose-132* UreaN-12 Creat-0.6 Na-143 
K-4.4 Cl-101 HCO3-25 AnGap-17
___ 03:24AM BLOOD ALT-9 AST-16 AlkPhos-102 TotBili-0.3
___ 06:00AM BLOOD ALT-12 AST-36 AlkPhos-100 TotBili-0.7
___ 03:24AM BLOOD Lipase-32
___ 03:24AM BLOOD cTropnT-<0.01
___ 03:24AM BLOOD Albumin-3.9 Calcium-9.2 Phos-2.3* Mg-1.9
___ 06:00AM BLOOD Calcium-9.1 Phos-2.8 Mg-1.5*
___ 03:24AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
___ w severe dementia on hospice, glaucoma, HTN, osteoporosis, 
BPH p/w agitated dementia w/ behavioral disturbance, with course 
c/b likely iatrogenic hematuria and urinary retention, now 
resolved, as well as intermittent non-adherence to PO 
medications. 

# Encephalopathy:
# Severe dementia with behavior disturbance:
Presented from ___ (where he was on hospice for 
severe dementia) with agitation/aggression in setting of 
non-adherence to PO medications (Haldol and Depakote). Initial 
labs and imaging were otherwise largely unremarkable, without 
e/o PNA, UTI, or intoxication. NCHCT showed questionable 
mastoiditis (see below), without intracranial mass or 
hemorrhage. Likely represents progression of severe dementia, 
with possible contribution from urinary retention. In discussion 
with patient's son/HCP/legal guardian (Dr. ___, proxy 
invoked), further diagnostic workup was not within the patient's 
GOC. At HCP's request, patient was made CMO with goal of 
pursuing comfort-oriented approach to facilitate placement. He 
received haldol, olanzapine, and Depakote during prolonged ___ 
stay for agitation and aggression before finally being admitted 
to Medicine. Received loading dose of divalproex ___ mg IV x 1 on 
___ and IM Haldol decanoate 75 mg x 1 on ___ followed by 
resumption of his home PO Haldol and Depakote. He remained 
intermittently agitated and aggressive, likely in setting of 
urinary retention vs refusal of PO medications, requiring IM 
Haldol on ___ and ___ and temporary placement of soft wrist 
restraints followed by mitts to prevent harm to self and staff. 
A foley was placed ___ and restraints were d/c'd on ___. At 
the HCP's request, Foley was discontinued on ___, and patient 
was subsequently incontinent without hematuria or further 
evidence of urinary retention. Palliative care and psychiatry 
followed. At their recommendation, patient's home Haldol and 
Depakote were increased (to 7.5mg BID and 250mg BID, 
respectively) to augment the effective dose received when 
patient was amenable to taking medications. Mr. ___ 
tolerated these dose increases well with improved adherence and 
reduced agitation. Family meeting was held ___ with HCP, 
palliative care, CM, and Care ___ hospice. The patient's 
HCP confirmed Mr. ___ CMO status at that time and his 
desire to pursue outpatient hospice placement. MOLST completed - 
DNR/DNI, do not rehospitalize, no artificial nutrition. Mr. 
___ will be discharged to ___'s hospice house 
with private pay, with plan to transition to GIP at the hospice 
house when deemed eligible. Per Care ___, should patient 
develop agitation in setting of non-adherence to PO medications 
at hospice, subcutaneous Haldol can be administered in both 
scheduled and PRN fashion.

# Hematuria:
# Urinary retention:
Developed hematuria in ___ after straight cath attempt for 
urinary sample, likely iatrogenic. No e/o UTI. Resolved with 
CBI. Foley subsequently discontinued, followed by development of 
urinary retention. Plan was for intermittent straight cath, but 
patient intermittently declined, necessitating Foley replacement 
on ___ after discussion with HCP. At ___'s request, Foley was 
subsequently again d/c'd on ___, after which patient was 
incontinent without e/o recurrent hematuria or retention. 
Tamsulosin was discontinued at ___'s request. Would recommend 
bladder scans PRN at hospice for agitation or other signs of 
retention. 

# Fecal incontinence:
Baseline. Patient's HCP declined initiation of anti-diarrheal, 
and diagnostic w/u not pursued given CMO.

# HTN:
Previously on lisinopril, discontinued given CMO status at ___'s 
request. 

# Tachycardia:
# Severe malnutrition. 
Likely dehydration secondary to severe dementia and poor PO 
intake. Previously on metoprolol, discontinued on hospice prior 
to admission. IVFs and supplemental nutrition not administered 
at HCP's request given confirmed CMO.

# Possible mastoiditis:
Noted on admission NCHCT. Patient unable to endorse symptoms and 
not cooperative with exam. Given his agitation of questionable 
etiology, treated initially with 3d course of Ceftriaxone 1g 
daily for possible otitis vs. mastoiditis ___ - ___. Antibx 
subsequently discontinued at ___'s request given CMO status.

# Contacts: Dr. ___ (son/guardian, invoked); 
___
# Code Status/ACP: DNR/DNI, do not rehospitalize, no artificial 
nutrition. MOLST completed ___.
# Disposition: ___ house
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Divalproex (DELayed Release) 125 mg PO BID 
2. Tamsulosin 0.4 mg PO QHS 
3. Lisinopril 10 mg PO DAILY 
4. Haloperidol 5 mg PO BID 

 
Discharge Medications:
1.  Divalproex Sod. Sprinkles 250 mg PO BID  
2.  Haloperidol 7.5 mg PO BID  
3.  Haloperidol 5 mg PO QHS:PRN difficulty sleeping  

 
Discharge Disposition:
Home
 
Facility:
___
 
Discharge Diagnosis:
Severe dementia with behavioral disturbance
Urinary retention
Hematuria
Hypertension
Sinus tachycardia
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane) per son, but patient not ambulating this admission
 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital with discomfort and agitation.  You 
were treated with medications to keep you calm.  A foley 
catheter was initially placed to help with urination, but this 
was subsequently taken out as it was thought to aggravate you. 
You are being discharged to a hospice house, where providers 
___ focus on keeping you comfortable at the end of life. 

With best wishes,
___ Medicine
 
Followup Instructions:
___